US07655768B2
Step 1. Synthesis of 14-{(methylsulfonyl)oxy}-3,6,9,12-tetraoxatetradecanol
80 mL of dichloromethane was added to 10 g of pentaethyleneglycol and 10.7 g of silver oxide, and then 5.8 g of methanesulfonyl chloride dissolved in 16 ml of dichloromethane was added dropwise. After stirring the reaction solution at room temperature for 2 days, the solution was filtered with a celite, and then the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column chromatography to obtain 7.8 g of the objective compound.

reactant | pentaethyleneglycol | 10 g | C(COCCOCCOCCOCCO)O | C10H22O6
reactant | methanesulfonyl chloride | 5.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
catalyst | silver oxide | 10.7 g | [Ag]=O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 14-{(methylsulfonyl)oxy}-3,6,9,12-tetraoxatetradecanol | 7.8 g | CS(=O)(=O)OCCOCCOCCOCCOCCO | C11H24O8S
